US05571775
49. Preparation of t-Butyl N-(4-Fluoro-2-methoxy-3-pyridinyl)carbamate
To a solution of 8 g (35.7 mmol) of t-butyl N-(2-methoxy-3-pyridyl)carbamate in 200 mL of dry tetrahydrofuran was added with stirring at -60° C., 46.2 mL (78.5 mmol) of 1.7M t-butyl lithium in pentane. The resulting solution was allowed to warm slowly with stirring to -20° C. over a 20 to 30 min period. It was then cooled to about -60° C. and 12.2 g (38.7 mmol) of N-fluorodibenzenesulfonimide was added with stirring all at once. The mixture was allowed to warm to -20° C. and was poured into 500 mL of ether. The resulting ethereal solution was washed with a mixture of 2.5 g (41.7 mmol) of acetic acid and 150 mL of water. The aqueous phase was extracted with 200 mL of ether. The ethereal extracts were combined, dried over magnesium sulfate, filtered, and concentrated by evaporation. The residue was purified by flash chromatography to obtain 6.7 g (77 percent of theory) of the title compound as a colorless solid melting at 75°-77° C.

reactant | t-butyl N-(2-methoxy-3-pyridyl)carbamate | 35.7 mmol, 8 g | COC1=NC=CC=C1NC(OC(C)(C)C)=O | C11H16N2O3
reactant | t-butyl lithium | 78.5 mmol, 1.7M, 46.2 mL | C(C)(C)(C)[Li]
reactant | N-fluorodibenzenesulfonimide | 38.7 mmol, 12.2 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | acetic acid | 41.7 mmol, 2.5 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | water | 150 mL | O | H2O
solvent | ether | 500 mL | CCOCC | C4H10O
product | t-Butyl N-(4-Fluoro-2-methoxy-3-pyridinyl)carbamate | FC1=C(C(=NC=C1)OC)NC(OC(C)(C)C)=O | C11H15FN2O3
